US06200980B1
5-Amino-1-n-propylpyrazole-4-carboxamide
A solution of 5-amino-4-cyano-1-n-propylpyrazole (J. Med. Chem., 1968, 11, 79; 4.0 g, 0.0027 mol) in a mixture of concentrated sulphuric acid (30 ml) and water (3 ml) was heated at 90° C. for 1 hour. The cool reaction mixture was poured into ice/water (70 g) and the resulting mixture basified with solid sodium carbonate to pH 8. The aqueous solution thus obtained was extracted with ethyl acetate (5×100 ml), the combined extracts dried (Na2SO4) and the solvent removed by evaporation under vacuum to give the title compound as a pale yellow solid (4.25 g, 95%). A sample was obtained as colourless crystals, m.p. 183-185° C., by crystallisation from methanol-diethyl ether. Found: C, 50.39; H, 6.94; N, 33.21. C7H12N4O requires C, 49.99; H, 7.19; N, 33.31%.

reactant | 5-amino-4-cyano-1-n-propylpyrazole | 0.0027 mol, 4.0 g | NC1=C(C=NN1CCC)C#N | C7H10N4
reactant | sulphuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 3 ml | O | H2O
product | 5-Amino-1-n-propylpyrazole-4-carboxamide | 4.25 g, 95% | NC1=C(C=NN1CCC)C(=O)N | C7H12N4O
